US08604024B2
Step 19A. tert-Butyl rel-((4aS,10bS)-10b-methyl-9-(1H-pyrazol-4-yl)-4a,5,6,10b-tetrahydro-4H-naphtho[1,2-d][1,3]thiazin-2-yl)carbamate
Dioxane (1 mL) and water (0.1 mL) were added to a mixture of tert-butyl rel-((4aS,10bS)-9-bromo-10b-methyl-4a,5,6,10b-tetrahydro-4H-naphtho[1,2-d][1,3]thiazin-2-yl)carbamate from preparation C (10 mg, 0.024 mmol), (1H-pyrazol-4-yl)boronic acid (27.2 mg, 0.243 mmol) and potassium carbonate (33.6 mg, 0.243 mmol). Nitrogen was bubbled through the mixture for 5 min. 1,1′-Bis(diphenylphosphino)ferrocenepalladium (II) dichloride, toluene (10 mg, 0.012 mmol) was added and the resulting mixture was heated at 100° C. for 1 h. The reaction contents were cooled to rt and were transferred to a separatory funnel containing saturated aqueous NaHCO3 solution (10 mL). The aqueous layer was extracted with EtOAc (3×25 mL). The combined organic layers were washed with brine (10 mL), dried over sodium sulfate, filtered and concentrated. The crude product of step 19A was used in the next step without further purification. LCMS (M+H)+=399.08.

reactant | tert-butyl rel-((4aS,10bS)-9-bromo-10b-methyl-4a,5,6,10b-tetrahydro-4H-naphtho[1,2-d][1,3]thiazin-2-yl)carbamate | BrC1=CC=C2CC[C@H]3[C@](N=C(SC3)NC(OC(C)(C)C)=O)(C2=C1)C | C18H23BrN2O2S
reactant | (1H-pyrazol-4-yl)boronic acid | 0.243 mmol, 27.2 mg | N1N=CC(=C1)B(O)O | C3H5BN2O2
reactant | potassium carbonate | 0.243 mmol, 33.6 mg | C([O-])([O-])=O.[K+].[K+]
reactant | toluene | 0.012 mmol, 10 mg | C1(=CC=CC=C1)C | C7H8
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
catalyst | 1,1′-Bis(diphenylphosphino)ferrocenepalladium (II) dichloride | C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.Cl[Pd]Cl.[Fe]
solvent | water | 0.1 mL | O | H2O
solvent | Dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | tert-Butyl rel-((4aS,10bS)-10b-methyl-9-(1H-pyrazol-4-yl)-4a,5,6,10b-tetrahydro-4H-naphtho[1,2-d][1,3]thiazin-2-yl)carbamate | C[C@]12N=C(SC[C@H]1CCC1=CC=C(C=C12)C=1C=NNC1)NC(OC(C)(C)C)=O | C21H26N4O2S
